US06350907B1
3-Fluoro-4-phenoxy-bromobenzene
Aqueous sodium hydroxide (5.5 mL, 1M, 5.5 mmol) was added to a mixture of 4-bromo-2-fluorophenol (0.96 gm, 5.0 mmol) and diphenyliodonium bromide (1.99 gm, 5.5 mmol) in water (20 mL), and the mixture was heated under reflux for 4 h. After being cooled, the reaction mixture was diluted with ether, and filtered. The organic phase was washed with saturated aqueous sodium chloride, dried (MgSO4), and concentrated under reduced pressure. The residual dark orange oil was purified by flash chromatography (eluting with hexane) to give the title compound as an orange oil (1.2 gm, 90%).

reactant | sodium hydroxide | 5.5 mmol, 1M, 5.5 mL | [OH-].[Na+]
reactant | 4-bromo-2-fluorophenol | 5.0 mmol, 0.96 gm | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | diphenyliodonium bromide | 5.5 mmol, 1.99 gm | [Br-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
solvent | water | 20 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-Fluoro-4-phenoxy-bromobenzene | 1.2 gm, 90% | FC=1C=C(C=CC1OC1=CC=CC=C1)Br | C12H8BrFO
